US08258149B2
To a suspension of berberine hydrochloride (500 mg, 1.3 mmol) in anhydrous diethyl ether (50 mL) at 0° C. was added ethynylmagnesium chloride solution (1.1 M in tetrahydrofuran, 24 mL, 26 mmol) dropwise. After stirring at 0° C. for 16 h, the reaction was quenched by adding saturated aqueous ammonium chloride solution (20 mL). The mixture was extracted with diethyl ether (2×50 mL), washed with brine, dried over anhydrous sodium sulfate and concentrated in vacuo. The residue was re-crystallized from diethyl ether to afford 8-ethynyl-9,10-dimethoxy-5,8-dihydro-6H-[1,3]dioxolo[4,5-g]isoquino[3,2-a]isoquinoline (95 mg, 20%). LC/MS m/e calcd for C22H19NO4 (M+H)+: 362.40, observed: 362.2; 1H NMR (400 MHz, DMSO-d6) δ ppm 2.78-2.88 (m, 2 H) 3.17 (d, J=2.27 Hz, 1 H) 3.21-3.30 (m, 2 H) 3.81 (d, J=4.80 Hz, 6 H) 5.45 (d, J=2.02 Hz, 1 H) 6.02 (d, J=5.81 Hz, 2 H) 6.18 (s, 1 H) 6.76-6.83 (m, 2 H) 6.93 (d, J=8.59 Hz, 1 H) 7.32 (s, 1 H).

reactant | berberine hydrochloride | 1.3 mmol, 500 mg | COC1=C(C2=C[N+]3=C(C=C2C=C1)C4=CC5=C(C=C4CC3)OCO5)OC.[Cl-]
reactant | ethynylmagnesium chloride | 26 mmol, 1.1 M, 24 mL | C(#C)[Mg]Cl
solvent | diethyl ether | 50 mL | C(C)OCC | C4H10O
product | 8-ethynyl-9,10-dimethoxy-5,8-dihydro-6H-[1,3]dioxolo[4,5-g]isoquino[3,2-a]isoquinoline | 95 mg, 20% | C(#C)C1C=2C(=C(C=CC2C=C2N1CCC1=CC3=C(C=C21)OCO3)OC)OC | C22H19NO4
